US04800200
A solution of 7.25 g of N-[3-(1-phenyl-1-hydroxyethyl)-5-methylisoxazol-4-yl]chloroacetamide in 36 ml of tetrahydrofuran was added, dropwise under nitrogen, to a suspension of sodium hydride, from washing 2.5 g of a 50% (by weight) oil suspension with hexane, in 146 ml of tetrahydrofuran. The resulting mixture was refluxed for two hours, concentrated, and quenched with 250 ml of ice water. The resulting precipitate was collected, washed with hexane and dried under vacuum (phosphorus pentoxide). Recrystallization from methanol afforded 3.25 g of 4,8-dihydro-3,8-dimethyl-8-phenylisoxazolo[4,3-e][1,4]oxazepin-5(6H)-one, m.p. 177°-178° C.

reactant | N-[3-(1-phenyl-1-hydroxyethyl)-5-methylisoxazol-4-yl]chloroacetamide | 7.25 g | C1(=CC=CC=C1)C(C)(O)C1=NOC(=C1NC(CCl)=O)C | C14H15ClN2O3
reactant | sodium hydride | [H-].[Na+]
solvent | tetrahydrofuran | 36 ml | O1CCCC1 | C4H8O
product | 4,8-dihydro-3,8-dimethyl-8-phenylisoxazolo[4,3-e][1,4]oxazepin-5(6H)-one | 3.25 g | CC=1ON=C2C1NC(COC2(C2=CC=CC=C2)C)=O | C14H14N2O3
